US04115568
(k) Ethyl 2-(2-chloro-6-nitroanilino)-5-ethyl-thiophene-3-carboxylate
Ethyl 2-amino-5-ethyl-thiophene-3-carboxylate and 3-chloro-2-fluoronitrobenzene, m.p. 67°-70° C. (EtOH).

reactant | Ethyl 2-amino-5-ethyl-thiophene-3-carboxylate | NC=1SC(=CC1C(=O)OCC)CC | C9H13NO2S
reactant | 3-chloro-2-fluoronitrobenzene | ClC=1C(=C(C=CC1)[N+](=O)[O-])F | C6H3ClFNO2
solvent | EtOH | CCO | C2H6O
product | Ethyl 2-(2-chloro-6-nitroanilino)-5-ethyl-thiophene-3-carboxylate | ClC1=C(NC=2SC(=CC2C(=O)OCC)CC)C(=CC=C1)[N+](=O)[O-] | C15H15ClN2O4S
